US06060612
Preparation of 1,3-bis(N-(2-hydroxyethyl)-palmitoylamino)-2-hydroxypropane
Subsequently, into a 500 ml rounded-flask, were introduced 4.0 g of magnesium oxide and 80 g of distilled water. The mixture was stirred, and was added 8.9 g of N,N'-bis(2-hydroxyethyl)-2-hydroxy-1,3-propanediamine prepared above, and then was added 250 ml of 1,4-dioxane. 26.8 g of palmitoyl chloride was gradually added dropwise to the resulting mixture for 1 hour under violent stirring at a room temperature. After stirring for 2 hours, the mixture was filtered, and then the filtrate was mixed with 200 ml of chloroform, and washed twice with 200 ml of distilled water. The organic phase was seperated; on cooling a precipitated, which was collected and recrystallized from acetone, to give 24.3 g of the title compound as white powder, which was identified by IR and NMR. The results are shown in Table 4.

reactant | magnesium oxide | 4.0 g | [O-2].[Mg+2]
reactant | water | 80 g | O | H2O
reactant | N,N'-bis(2-hydroxyethyl)-2-hydroxy-1,3-propanediamine | 8.9 g | OCCNCC(CNCCO)O | C7H18N2O3
reactant | palmitoyl chloride | 26.8 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | 1,4-dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 1,3-bis(N-(2-hydroxyethyl)-palmitoylamino)-2-hydroxypropane | 24.3 g | OCCN(CC(CN(CCO)C(CCCCCCCCCCCCCCC)=O)O)C(CCCCCCCCCCCCCCC)=O | C39H78N2O5
